US03998831
Preparation of 3-methyl-7,8-dihydro-5(6H)-quinolone
A mixture of cyclohexane-1,3-dione (22.4 g., 0.2 mol.), 3-amino-2-methylacrolein (17 g., 0.2 mol.), triethylamine (10 ml.) and piperidinium acetate (0.25 g.) was heated with stirring in an oil bath at 120° C for 24 hours. The cooled reaction mixture was dissolved in 2N HCl (50 ml.) and extracted with ethyl acetate (3 × 50 ml.) and the organic extracts discarded. The aqueous solution was adjusted to pH 10 with sodium carbonate and extracted with chloroform (3 × 50 ml.). The combined extracts were dried (MgSO4) and the solvent removed in vacuo. The residual oil was distilled to give the title compound as a colourless oil (17 g., 52%) b.p. 79°/0.2 mm Hg which solidified.

reactant | cyclohexane-1,3-dione | 0.2 mol, 22.4 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | 3-amino-2-methylacrolein | 0.2 mol, 17 g | NC=C(C=O)C | C4H7NO
reactant | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
solvent | HCl | 2N, 50 ml | Cl | ClH
catalyst | piperidinium acetate | 0.25 g | C(C)(=O)[O-].[NH2+]1CCCCC1
product | 3-methyl-7,8-dihydro-5(6H)-quinolone | 17 g, 52% | CC=1C=NC=2CCCC(C2C1)=O | C10H11NO
